US07662581B1
A solution of [1-(2-benzylamino-5-bromo-phenylcarbamoyl)-2-methyl-propyl]-carbamic acid tert-butyl ester (400 mg, 0.84 mmol) in acetic acid (4 ml) was heated at 100° C. for 2 hours. The solvent was removed in vacuo and the resulting solid was dissolved in ethyl acetate. The organic layer was washed with saturated NaHCO3, dried over MgSO4, filtered and the filtrate was concentrated in vacuo. The crude product was purified by flash chromatography to give of [1-(1-benzyl-5-methyl-1H-benzimidazol-2-yl)-2-methyl-propyl]-carbamic acid tert-butyl ester (300 mg, yield 66%).

reactant | [1-(2-benzylamino-5-bromo-phenylcarbamoyl)-2-methyl-propyl]-carbamic acid tert-butyl ester | 0.84 mmol, 400 mg | C(C)(C)(C)OC(NC(C(C)C)C(NC1=C(C=CC(=C1)Br)NCC1=CC=CC=C1)=O)=O | C23H30BrN3O3
reactant | acetic acid | 4 ml | C(C)(=O)O | C2H4O2
product | [1-(1-benzyl-5-methyl-1H-benzimidazol-2-yl)-2-methyl-propyl]-carbamic acid tert-butyl ester | 300 mg, yield 66% | C(C)(C)(C)OC(NC(C(C)C)C1=NC2=C(N1CC1=CC=CC=C1)C=CC(=C2)C)=O | C24H31N3O2
